US04874769
A mixture of 3.5 g of 4-chlorobutyronitrile, 2.3 g of sodium azide and 1.9 g of ammonium chloride in 50 ml of dimethylformamide is stirred at 140° C. for 20 hours. The reaction mixture is poured onto ice, basified with 1N sodium hydroxide and extracted twice with ethyl acetate. The aqueous fraction is acidified with acetic acid and extracted with ethylacetate. Evaporation of the ethyl acetate gives 5-(3-chloropropyl)tetrazole which is used directly in the next step.

reactant | 4-chlorobutyronitrile | 3.5 g | ClCCCC#N | C4H6ClN
reactant | sodium azide | 2.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.9 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(3-chloropropyl)tetrazole | ClCCCC1=NN=NN1 | C4H7ClN4
